US06565829B2
Step 4: Preparation of 2-[1-methyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethanamine hydrochloride
tert-Butyl 2-[1-methyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate (0.048 g, 0.12 mmol) was dissolved in a 4.0 N HCl in dioxane (3.0 mL) and stirred at room temperature for 3.5 hours. The white precipitate was filtered and washed with ethyl acetate then recrystallized from MeOH/EtOAc to give 0.022 g (54%) of a white solid as the title compound: mp 285.3-292° C.; 1H NMR (400 MHz, DMSO-d6) δ 8.29 (d, J=1.4 Hz, 1H), 8.02 (br, 3H), 7.96-7.94 (m, 2H), 7.69-7.56 (m, 5H), 7.47 (s, 1H), 3.79 (s, 3H), 3.06 (br, 4H); 13C NMR (100 MHz, DMSO-d6) δ 142.6, 138.4, 132.9, 130.9, 129.4, 126.8, 126.6, 119.9, 119.1, 111.0, 110.9, 32.6, 22.4; IR (diffuse reflectance) 3060, 2980, 2962, 2944, 2904, 1488, 1305, 1288, 1162, 1149, 799, 725, 691, 643, 619 cm−1; HRMS (FAB) calcd for C17H18N2O2S+H 315.1167, found 315.1168; Anal. Calcd for C17H18N2O2S.HCl.0.5H2O: C, 56.73; H, 5.60; N, 7.78. Found: C, 56.96; H, 5.60; N, 7.70.

reactant | tert-Butyl 2-[1-methyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate | 0.12 mmol, 0.048 g | CN1C=C(C2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)CCNC(OC(C)(C)C)=O | C22H26N2O4S
reactant | HCl | 4.0 N | Cl | ClH
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | 2-[1-methyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethanamine hydrochloride | 0.022 g, 54% | Cl.CN1C=C(C2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)CCN | InChI=1S/C17H18N2O2S.ClH/c1-19-12-13(9-10-18)16-11-15(7-8-17(16)19)22(20,21)14-5-3-2-4-6-14;/h2-8,11-12H,9-10,18H2,1H3;1H
